Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
chest pressure
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Ms. ___ is a ___ yo woman with emphysema, hepatitis C, PVD, 
HTN, HLD and GERD, who presents with chest pressure, shortness 
of breath and stabbing epigastric pain that started 2 days ago.  
She first noticed a sensation of something "sitting on her 
chest" with her heart "fluttering" on ___, at rest.  She 
also was short of breath and nauseous, but as she has had these 
symptoms before, last nearly 3 months ago, she was not alarmed 
initially.  The following evening of ___ at 2 am, she awoke from 
her sleep with the same chest pressure, a heavy feeling over her 
arms, sharp epigastric pain, dyspnea and nausea.  No vomiting or 
diaphoresis.  She got out of bed and collapsed on the L hip 3x 
on her way to get nitroglycerin, which provided no relief.  Did 
not sustain any blows to the head or loss of consciousness.  She 
then called ___ and was brought to the ___ ED.  The patient 
could not recall if she has had prior hospitalizations for COPD 
exacerbation or MI w/u.
.   
Of note, the patient reports that she has been non-compliant 
with all of her home medications for 1 month due to 
preoccupation with her visiting grandchildren.  Her grandaughter 
had recently been sick and the patient did feel some symptoms of 
productive cough, runny nose and upset stomach last week which 
have now improved.  She denies other sick contacts or recent 
travel.  
.
On review of symptoms, the patient denies fevers or chills, 
heart palpitations, or diaphoresis.  She reports intermittent 
headache and blurry vision, which she attributes to episodes of 
hypertension. She reports baseline numbness, tingling and 
weakness in her ___ b/l causing problems with balance without 
vertigo, sx which she attributes to her PVD.  She has stress 
incontinence at baseline but no dysuria.  She reports easy 
bruising of several weeks duration, and increasing stabbing RUQ 
pain, which she suspects is due to her hepatitis.  Baseline 
lower back pain.  Recent 10 lb weight loss over last month.  No 
rashes or myalgias. 
.
In the ED, vital signs were 98.6 196/91 78 18 100% 2L. the 
patient had a hip film which showed no fractures, an EKG 
revealing q waves in leads II and III, and a neg set of cardiac 
enzymes.  She was given 40 mg prednisone and duonebs for 
presumptive COPD flare and transferred to the Medicine floor.  
.
 
Past Medical History:
PMH:
COPD (never formally dx by spirometry, bullous emphysema on CT 
imaging ___
Hepatitis C (stage ___ fibrosis per liver bx ___
HTN (poorly controlled at b/l, non compliant with meds; P-MIBI 
negative in ___, stress-Echo ___ EF 60%, trivial MR, no 
inducible ischemia)
HLD
Peripheral neuropathy
PVD (L subclavian stenosis seen on CTA ___ and MRA ___
and RE arterial insufficiency; ABI showing minimal disease below 
the knee at the tibial level on ___
Depression, requiring hospitalization in past
h/o polysubstance abuse, including cocaine and iv drug use, and 
on-going alcohol and tobacco use
Hiatal hernia, s/p nissen fundoplication
GERD
esophageal stricture (Schatzkis ring)
Fe def anemia
Fibromyalgia
Cervical spondylosis
Stress incontinence
Osteoarthritis
 
Social History:
___
Family History:
Hx of early CAD  mother had MI at age ___, grandmother died of 
MI and sister reportedly died of MI at age ___.
 
Physical Exam:
VS: T=98.2, BP=180/82, HR=83, RR=18, O2 sat=100% on RA  
.  
GENERAL: NAD. Oriented x3. Mood stable, affect appropriate.  
HEENT/Lymph: NCAT. Sclera anicteric. MMM, conjunctiva pink. No 
rash or lesions on OP. No ___ anterior cervical chain or 
supraclavicualrly.  
NECK: Supple, no JVD.  
CARDIAC: RRR, no murmurs.  
LUNGS: CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, tender to palpation in RUQ. No rebound 
tenderness. No HSM or masses.  Diffuse tenderness at base of 
spine and flank but no focal CVA tenderness.
EXTREMITIES: Warm, dry, no edema.  
SKIN: No rash or lesions.  
.  
MSK: Tenderness to palpation of lumbar spine.  
.  
NEURO: A/O x3, CNs II - XII intact. Resting tremor in R arm. 
Motor: normal tone. Strength: 
    Del Tri Bi WE FE FF IP Quad ___

L   4+   5   5    ___  3  4    5    4    5      5       

R   4+  5   5    ___   ___    4   5      5    
.  
DTRs: 2+ throughout. Sensory: intact to LT bilaterally.  
.  
 
Pertinent Results:
___ 04:30AM   GLUCOSE-87 UREA N-6 CREAT-0.8 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-21* ANION GAP-17

___ 04:30AM   WBC-6.7 HCT-36.1 PLT 372

3 sets of neg cardiac enzymes

Urine tox screen neg

EKG: Normal sinus rhythm. Tracing is within normal limits. 
Compared to the previous tracing of ___ no diagnostic 
interim change.

L hip film: no fracture or dislocation

CXR no acute process

MR ___ Spine w/o contrast: Degenerative changes of the lumbar 
spine without significant spinal canal or neural foraminal 
narrowing. Partially visualized distended bladder.

 
Brief Hospital Course:
Chest pain, dyspnea: 

The patient was admitted to the floor hypertensive (180/82) but 
otherwise in stable condition without chest pressure or dyspnea 
(T=98.2, BP=180/82, HR=83, RR=18, O2 sat=100% on RA). EKG in the 
ED showed no ischemic changes, and 3 sets of cardiac enzymes 
were normal, making acute coronary syndrome unlikely.  Urine tox 
was negative for cocaine use, also ruling out a syndrome X, or 
acute narrowing of the coronary arteries.  Given the patient's 
lack of compliance with her HTN and GERD medications, her 
episode likely reflected a hypertensive crisis with possible 
overlying reflux.  Her emphysema may have also contributed to 
her SOB.  

The patient received a prednisone taper 60 mg, ___, as well 
as albuterol prn, ipratropium nebs, and fluticasone-salmeterol 
for her emphysema and experienced improvements in her breathing. 
 She was restarted on her home nifedipine and was half her home 
valsartan dose, which subsequently normalized her blood 
pressures.  She was also started on her home aspirin 81 mg daily 
and ompeprazole.  A lipid panel was drawn, which was within 
normal limits, including a LDL of 111.  Giver a ___ risk 
score of 4%, a statin was not initiated.  At the time of 
discharge, the patient had been free of chest pressure and SOB 
for 48 hours. 

Urinary retention with baseline ___ weakness/numbness/tingling: 

Despite recent initiation of opiods for pain control in the ED 
and on the floor, the patient's new onset of urinary retention 
upon reaching the floor raised concern for cord compression.  L 
spine MR was performed showing no evidence for cord compression, 
spinal stenosis or foramenal narrowing.  The patient's urinary 
retention resolved that evening and recurred the next day with 
constipation following her morning morphine dose.  Opiods were 
discontinued.  With a bowel regimen, the constipation and 
urinary retention resolved, and the patient was discharged on 
tylenol for pain control. 

Given the patient's complaints of of baseline L leg weakness and 
b/l ___ numbness and tingling, B12, TSH, folate levels were drawn 
rule out possible metabolic sources of of peripheral neuropathy. 
 An outpatient Neurology appointment was arranged to follow up 
likely peripheral neuropathy underlying these symptoms.  

A ___ consult was called and cleared the patient for ambulation 
at home, though visiting home services were arranged for the 
patient's chronic pain and anxiety.

HTN: 

The pt was acutely hypertensive on admission (SBP 180-190), and 
resolved on home nifedipine and ___ dose of valsartan with which 
she was discharged.

RUQ pain / bruising: 

Likely related to patient's hepatitis, the patient's LFTs were 
mildly elevated and coag studies wnl.  There were no acute 
issues during her hospital stay.

PVD: 

No issues. A recent Cardiology appointment judged the patient's 
lower extremity symptoms to be unlikely due to her PVD given ABI 
showing minimal disease below the knees.  As discussed above, 
her ___ weakness, numbness and tingling is ossibly due to 
peripheral neuropathy secondary to alcohol abuse. Outpatient 
neurology appointment was scheduled. 

Alcohol abuse:

Given the patient's history of alcohol abuse, she was placed on 
CIWA protocol but showed no signs of withdrawal throughout her 
stay.

Fibromyalgia:

The patient was given Morphine 15 mg po q12h for pain control 
and then transitioned to tylenol given the patient's new onset 
of urinary retention and constipation. Home visiting services 
were arranged to help the patient cope with the patient's 
chronic pain and anxiety. 
 
Medications on Admission:
Non-compliant for 1 month.

ALBUTEROL SULFATE [PROAIR HFA] - 90 mcg HFA Aerosol Inhaler - 
___
puffs inhaled q ___ hours as needed for sob
CITALOPRAM - 20 mg Tablet - 0.5 (One half) Tablet(s) by mouth
every morning for 1 week, then start taking 1 tablet every
morning
FEXOFENADINE - 180 mg Tablet - 1 Tablet(s) by mouth qday as
needed for allergies
FLUTICASONE-SALMETEROL [ADVAIR DISKUS] - 500 mcg-50 mcg/Dose 
Disk
with Device - 1 puff inhaled twice daily rinse mouth after use
FOLIC ACID - 1 mg Tablet - 1 Tablet(s) by mouth daily
NIFEDIPINE [NIFEDIAC CC] -  (On Hold from ___ to unknown
for has not been taking. will hold until she takes the HCTZ
first) - 30 mg Tablet Sustained Release - one Tablet(s) by mouth
once a day
NITROGLYCERIN - 0.3 mg Tablet, Sublingual - 1 Tablet(s)
sublingually as needed for chest pain. ___ repeat up to three
times, if pain persists, call ___ and go to emergency 
department.
PANTOPRAZOLE [PROTONIX] - 40 mg Tablet, Delayed Release (E.C.) -
2 Tablet(s) by mouth twice a day
QUETIAPINE [SEROQUEL] - 25 mg Tablet - 1 Tablet(s) by mouth at
bedtime
TIOTROPIUM BROMIDE [SPIRIVA WITH HANDIHALER] - 18 mcg Capsule,
w/Inhalation Device - one capsule inhaled daily
VALSARTAN [DIOVAN] -  (Not Taking as Prescribed) - 320 mg 
Tablet-
1 (One) Tablet(s) by mouth once a day please keep appt with dr.
___ ___
DOCUSATE SODIUM [COLACE] - 100 mg Capsule - 1 by mouth QDAY as
needed for CONSTIPATION DUE TO IRON
IRON - 325 mg (65 mg Iron) Tablet - 1 Tablet(s) by mouth three
times a day take with colace to prevent constipation
MULTI-VITAMIN -   Tablet - 1 Tablet(s) by mouth daily
THIAMINE HCL - 100 mg Tablet - 1 Tablet(s) by mouth daily
 
Discharge Medications:
1. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).
Disp:*1 Disk with Device(s)* Refills:*0*
2. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
4. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. Nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).
Disp:*30 Tablet Sustained Release(s)* Refills:*2*
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).
Disp:*30 Tablet, Chewable(s)* Refills:*2*
7. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*0*
8. Prednisone 10 mg Tablet Sig: One (1) Tablet PO qd () for 1 
days.
Disp:*1 Tablet(s)* Refills:*0*
9. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1)  Inhalation once a day.
Disp:*30 capsules* Refills:*2*
10. Iron 325 mg (65 mg Iron) Tablet Sig: One (1) Tablet PO three 
times a day.
Disp:*90 Tablet(s)* Refills:*2*
11. Docusate Sodium 100 mg Tablet Sig: One (1) Tablet PO once a 
day as needed for constipation.
Disp:*30 Tablet(s)* Refills:*2*
12. Nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1)  
Sublingual twice a day as needed for chest pain: sublingually as 
needed for chest pain. ___ repeat up to three
times, if pain persists, call ___ and go to emergency 
department.  
13. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___  Inhalation every ___ hours as needed for shortness of 
breath or wheezing.
Disp:*1 inhaler* Refills:*0*
14. Valsartan 160 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
1) GERD
2) Hypertensive strain
3) emphysema
4) 3 falls, no head trauma
Secondary Diagnoses: 
1) Peripheral Neuropathy
2) Peripheral Vascular Disease
3) HTN
4) Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the ___ on ___ with an episode of 
chest pressure, shortness of breath and belly pain which woke 
you from your sleep in the setting of not taking your acid 
reflux or blood pressure medications for over 1 month.  This 
episode was possibly due to your gastric reflux as well as 
strain on the heart due to hypertension.  Your emphysema was 
likely contributing to your shortness of breath.  In the 
hospital, an electrocardiogram and lab tests showed that you did 
not have a heart attack.  You were restarted on your home 
nifedipine and half dose of valsartan for your blood pressure 
and omeprazole for your GERD.  Your home aspirin was also 
started to help prevent future heart attack.  For your shortness 
of breath, you were given your a short course of oral steroids 
as well as ipratropium and Advair, which helped to relieve your 
symptoms.  
.
During your episode of chest pressure, you also sustained 3 
falls on your L hip, which increased your L leg pain and 
weakness.  An MR scan of your lumbar spine showed no evidence of 
spinal cord or nerve root compression that might exacerbate your 
symptoms.  In the hospital, your pain was well-controlled on 
oral morphine.  This medication caused you to have urinary 
retention and constipation.  You should not take this medication 
in the future.  
.
You were instructed to follow-up with an outpatient Neurologist 
for further management of your lower extremity symptoms, which 
may be due to peripheral neuropathy.      
.
On ___, you were discharged without further episodes of chest 
pressure and with your shortness of breath and hypertension 
under control.  You were scheduled to follow-up with your 
primary care doctor.  
.
It is important to take your medications on a regular basis to 
prevent symptoms from your hypertension, acid reflux and most 
importantly, strain on your heart.  Please discuss with your 
primary care strategies that might make it easier for you to 
continue to take these medications.

Please note the following changes to your medications:
1) TAKE one 10 mg dose of prednisone on the day after discharge
2) DECREASE Valsartan to 160mg daily 
3) STOP Citalopram and Seroquel until you see Dr. ___ as an 
outpatient
4) TAKE tylenol for pain, maximum 2 grams a day or 8 extra 
strength tabs
Continue the rest of your medications as prescribed at home    
 
Followup Instructions:
___